US05136080
A. 2-(2,3,5-trichlorophenyl)-4-methoxy-3-oxo-butyronitrile
To a stirred refluxing solution of sodium ethoxide (from 1.38 g sodium) in ethanol (25 ml) was added over 5 minutes a mixture of 2,3,5-trichlorophenylacetonitrile (11 g) and ethyl methoxyacetate (8.85 g) in dry DME (25 ml). After 4 hours the mixture was cooled on ice and acidified by dropwise addition of acetic acid (ca. 6 ml), diluted with ice-water (150 ml) and extracted with dichloromethane (2×100 ml). The dichloromethane extract was washed with water, dried over MgSO4 and concentrated giving a yellow solid, which was triturated with a little ether and filtered. 8.6 g Homogeneous by TLC (19:1 CH2Cl2 :MeOH).

reactant | sodium ethoxide | 1.38 g | [O-]CC.[Na+]
reactant | 2,3,5-trichlorophenylacetonitrile | 11 g | ClC1=C(C=C(C=C1Cl)Cl)CC#N | C8H4Cl3N
reactant | ethyl methoxyacetate | 8.85 g | COCC(=O)OCC | C5H10O3
reactant | acetic acid | ca. 6 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | DME | 25 ml | COCCOC | C4H10O2
product | 2-(2,3,5-trichlorophenyl)-4-methoxy-3-oxo-butyronitrile | ClC1=C(C=C(C=C1Cl)Cl)C(C#N)C(COC)=O | C11H8Cl3NO2
